US06350749B1
To a solution of 20% sodium ethoxide in ethanol (170.1 g) was added diethyl malonate (80.1 g) at room temperature (immediately precipitated material was observed), and then a solution of crude 2-chlorobenzalacetone (94.6 g) in ethanol (40 ml). The mixture was stirred at 90° C. for 2 hours, cooled at room temperature and under-ice-cooling (for 1 hour). Precipitated materials were filtered and washed with ethyl acetate and isopropylether to give crude ethyl 6-(2-chlorophenyl)-2-hydroxy-4-oxo-2-cyclohexene-1-carboxylate monosodium salt (151.0 g) as pale yellow powder. To said powder was added 2 M sodium hydroxide (350 ml), and the mixture was stirred at 100° C. for 2 hours and cooled. To the mixture was added 2.5 M sulfuric acid (350 ml) for 15 minutes, and the mixture was stirred at 100° C. for 2 hours and cooled. To the mixture was added ethyl acetate (1.4 l), and the mixture was subjected to extraction. The ethyl acetate layer was washed with brine, dried (anhydrous magnesium sulfate), and ethyl acetate was evaporated under reduced pressure. Precipitated crystals were washed with ethyl acetate-isopropylether (1:4) and isopropylether to give 5-(2-chlorophenyl)cyclohexane-1,3-dione (82.1 g) as colorless crystals.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | diethyl malonate | 80.1 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-chlorobenzalacetone | 94.6 g | ClC1=C(C=CC(C)=O)C=CC=C1 | C10H9ClO
reactant | sodium hydroxide | 2 M, 350 ml | [OH-].[Na+]
reactant | sulfuric acid | 2.5 M, 350 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 170.1 g | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethyl acetate | 1.4 l | C(C)(=O)OCC | C4H8O2
product | 5-(2-chlorophenyl)cyclohexane-1,3-dione | 82.1 g | ClC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C12H11ClO2
